US08222263B2
To a round bottomed flask containing 7-benzyl-2,4-dichloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (578 mg, 1.96 mmol) was added phenylboronic acid (260 mg, 2.13 mmol), dichloro-((bis-diphenylphosphino)ferrocenyl)-palladium (II) (complex with methylene chloride, 160 mg, 0.32 mmol), triethylamine (600 μL, 4.3 mmol), dimethoxyethane (20 mL), and water (0.5 mL). The reaction mixture was heated to 80° C. for 14 h, then cooled to rt and diluted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate, dried over sodium sulfate, filtered, and concentrated on a rotary evaporator. The material was purified by flash column chromatography to afford 7-benzyl-2-chloro-4-phenyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (210 mg, 32%).

reactant | 7-benzyl-2,4-dichloro-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 1.96 mmol, 578 mg | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)Cl)Cl | C14H13Cl2N3
reactant | phenylboronic acid | 2.13 mmol, 260 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | triethylamine | 4.3 mmol, 600 μL | C(C)N(CC)CC | C6H15N
reactant | dimethoxyethane | 20 mL | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 0.5 mL | O | H2O
product | 7-benzyl-2-chloro-4-phenyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 210 mg, 32% | C(C1=CC=CC=C1)N1CC=2N=C(N=C(C2CC1)C1=CC=CC=C1)Cl | C20H18ClN3
